US07371751B2
2-[(2,4-Dichloro-benzoyl)-(4-chloro-3-methoxy-phenyl)-amino]-5-methyl-thiazole-4-carboxylic acid
A mixture of 4.3 g (14 mmol) 2-(4-chloro-3-methoxy-phenylamino)-5-methyl-thiazole-4-carboxylic acid, 7.5 g (35 mmol) 2,4-dichloro-benzoyl chloride and 2.01 g (14.5 mmol) potassium carbonate in 200 mL THF was stirred at 50° C. for 18 h. After evaporation of the volatiles the residue was partitioned between water and ethyl acetate. Organic phases were pooled, dried with MgSO4 and the solvent was removed in vacuo. Crystallisation from n-heptane/ethyl acetate yielded 6.6 g (97%) of the title compound.

reactant | 2-(4-chloro-3-methoxy-phenylamino)-5-methyl-thiazole-4-carboxylic acid | 14 mmol, 4.3 g | ClC1=C(C=C(C=C1)NC=1SC(=C(N1)C(=O)O)C)OC | C12H11ClN2O3S
reactant | 2,4-dichloro-benzoyl chloride | 35 mmol, 7.5 g | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | potassium carbonate | 14.5 mmol, 2.01 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-[(2,4-Dichloro-benzoyl)-(4-chloro-3-methoxy-phenyl)-amino]-5-methyl-thiazole-4-carboxylic acid | 6.6 g, 97% | ClC1=C(C(=O)N(C=2SC(=C(N2)C(=O)O)C)C2=CC(=C(C=C2)Cl)OC)C=CC(=C1)Cl | C19H13Cl3N2O4S
